US09278983B2
To a mixture of 2-(2-ethylsulfanyl-phenyl)-6-iodo-3-methyl-3H-imidazo[4,5-b]pyridine (430 mg), copper iodide (229 mg), and DMF (3 ml), sodium sulfide nonahydrate (721 mg) was added at room temperature. The mixture was stirred with heating at 110° C. for 6 hours. Into the reaction mixture cooled to room temperature, saturated aqueous ammonium chloride water solution was poured, and extracted with ethyl acetate. The combined organic layer was dried over sodium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 85 mg of 2-(2-ethylsulfanyl-phenyl)-3-methyl-3H-imidazo[4,5-b]pyridin-6-thiol (hereinafter referred to as Present Compound 145):

reactant | 2-(2-ethylsulfanyl-phenyl)-6-iodo-3-methyl-3H-imidazo[4,5-b]pyridine | 430 mg | C(C)SC1=C(C=CC=C1)C1=NC=2C(=NC=C(C2)I)N1C | C15H14IN3S
reactant | sodium sulfide nonahydrate | 721 mg | O.O.O.O.O.O.O.O.O.[S-2].[Na+].[Na+]
reactant | ammonium chloride water | O.[Cl-].[NH4+]
catalyst | copper iodide | 229 mg | [Cu](I)I
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 2-(2-ethylsulfanyl-phenyl)-3-methyl-3H-imidazo[4,5-b]pyridin-6-thiol | 85 mg | C(C)SC1=C(C=CC=C1)C1=NC=2C(=NC=C(C2)S)N1C | C15H15N3S2
